US04806560
3.1. 3-[(3-Nitro-2-pyridyl)amino]-1-propyl benzoate
70 ml of benzoyl chloride are introduced dropwise into a solution of 77.8 g (0.04 mol) of 3-[(3-nitro-2-pyridyl)amino]propanol (M. ISRAEL, N. TIROSH, J. Med. Chem. 1973, 16, 520) in 48.5 ml of pyridine and 800 ml of benzene. The mixture is stirred for 2 h at ambient temperature and the precipitate is filtered. The filtrate is washed with 1N hydrochloric acid and then with water. Drying, filtering and evaporation are carried out. A crystallized product is obtained.

reactant | benzoyl chloride | 70 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-[(3-nitro-2-pyridyl)amino]propanol | 0.04 mol, 77.8 g | [N+](=O)([O-])C=1C(=NC=CC1)NCCCO | C8H11N3O3
solvent | pyridine | 48.5 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 800 ml | C1=CC=CC=C1 | C6H6
product | 3-[(3-Nitro-2-pyridyl)amino]-1-propyl benzoate | C(C1=CC=CC=C1)(=O)OCCCNC1=NC=CC=C1[N+](=O)[O-] | C15H15N3O4
